2177-09-22 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Went into wenckebach rhythm. A-lined and BP correlating with cuff
   pressures.  Head CT showing diffuse anoxic brain injury.  EEG done. Pt
   with high FIO2 requirements (80%).  Lactate trending down.
   At [**2168**] hrs, pt brady'ed and went into PEA arrest --> CPR started,
   given atropine x 1, epi x 1, came out of arrest into sinus tach, BP
   220s after 3-4 mins of PEA arrest.
   Called by neuro fellow, stating that pt may be in non-convulsive
   status.  Explained that pt was just PEA arrested, and was given CPR.
   Told that pt
s EEG is flat lining.
   Head CT and CTA ordered to look for worsening cerebreal edema, ?PE.
   Head CT shows ventricles are slightly smaller in size compared with the
   morning head ct suggesting progression of cerebral edema, although lot
   of artifact on study from MRI leads.  Chest CT shows bilateral
   infiltrates could be c/w aspiration pneumonia, no pulmonary embolus
   although one small area in the LLL subsegmental branch that could be
   c/w PE.  He was started on vanc/zosyn to cover for aspiration
   pneumonia.  In addition, one set of blood cultures returned with both
   bottles with GPC's in pairs, second set with no growth thus far.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2177-9-21**] 11:30 PM
   Vancomycin - [**2177-9-22**] 12:10 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-9-21**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-9-22**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-22**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 66 (61 - 107) bpm
   BP: 92/63(74) {88/61(71) - 150/95(117)} mmHg
   RR: 16 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,606 mL
                                                                    590 mL
   PO:
             TF:
   IVF:
                                                                  1,486 mL
                                                                    590 mL
   Blood products:
   Total out:
                                                                    778 mL
                                                                    800 mL
   Urine:
                                                                    778 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,828 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, Vent Dependant
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.41/42/179/26/2
   Ve: 8.4 L/min
   PaO2 / FiO2: 298
   Physical Examination
   VS: T=34 celsius on artic sun BP=107/81 HR= 150 regular RR=18 O2 sat=
   98%  AC 100%/550/16/5
   Gen: intubated, unresponsive to any stimulus, no posturing noted
   HEENT: NC AT, intubated pupils are fixed and dilated at 6mm
   bilaterally, right pupil appears to be post surgical, left eye with
   large cataract visible
   Neck: right EJ 18G iv in place, no significant jvd
   CV: RRR s1 s2 no appreciable murmur
   Lungs: CTAB anteriorly, decreased BS posteriorly, unable to ausculate
   lung bases as artic sun cooling pads in place, no wheezing
   Abd: distended, soft, unable to assess for tenderness given mental
   status, positive bowel sounds
   Ext: cool, palpable DP's bilaterally
   Labs / Radiology
   134 K/uL
   12.1 g/dL
   109 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   24 mg/dL
   106 mEq/L
   141 mEq/L
   37.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2177-9-21**]  01:32 PM
                             [**2177-9-21**]  04:21 PM
                             [**2177-9-21**]  06:18 PM
                             [**2177-9-22**]  03:02 AM
                             [**2177-9-22**]  03:19 AM
   WBC
   8.1
   9.3
   Hct
   38.2
   37.2
   Plt
   148
   134
   Cr
   0.7
   0.7
   TropT
   0.29
   0.15
   TCO2
   24
   26
   28
   Glucose
   132
   109
   Other labs: PT / PTT / INR:16.5/29.2/1.5, CK / CKMB /
   Troponin-T:1066/52/0.15, ALT / AST:176/289, Alk Phos / T Bili:86/0.3,
   Lactic Acid:2.2 mmol/L, Albumin:3.5 g/dL, Ca++:7.7 mg/dL, Mg++:2.2
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 IMPAIRED SKIN INTEGRITY
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 VENTRICULAR FIBRILLATION (VF)
   Mr. [**Known lastname 9957**] is an 80 yo M with PMH of parkinsonism, autonomic
   instability and labile blood pressures admitted to the CCU following
   PEA arrest and resuscitation, now on Arctic sun protocol with diffuse
   anoxic brain injury on CT scan.
   .
   # s/p PEA arrest, unlikely to be from primary cardiac etiology, at this
   time most like due to hypoxia from possible aspiration event given that
   main laboratory abnormality is hypoxia and also with new left sided
   infiltrate.  No evidence of pericardial effusion on echo, no evidence
   of pneumothorax.  No evidence of acute MI on admission.  He does have a
   lactic acidosis, likely [**3-17**] prolonged pea arrest in the field.  He has
   been in sinus tachycardia with occasional 2nd degree heart block type I
   on telemetry since admission.  He was bolused with amiodarone and
   lidocaine in the field and started on an amiodarone gtt by EMS.
   -d/c amiodarone gtt as PEA arrest seems very unlikely to be primary
   cardiac
   -monitor on telemetry
   -on artic sun cooling protocol x18 hours, monitor coagulation profile
   -PEA arrested overnight again, with unclear precipitant, but suspected
   to be related to progressive cerebral edema.
   -Head CT concerning for smaller ventricular size, ?worsening cerebral
   edema, no obvious herniation
   .
   # CORONARIES: No evidence of acute ischemia on EKG, no evidence of wall
   motion abnormality on echo on admission.  Cardiac enzymes slightly
   elevated however expected in the setting of several DCCV.
   -trend CE's to peak
   -serial EKG's
   .
   # PUMP: Echocardiogram on admission with hyperdynamic LV in the setting
   of resuscitation with numerous epinephrine boluses.  No evidence of
   wall motion abnormality or major valvular lesions.
   .
   #Hypoxia - Most likely etiology of PEA arrest, still with significant
   AA gradient, but PaO2 improving with FIO2 of 60.  Unclear etiology at
   this time, possibly [**3-17**] aspiration event given LLL opacity and air
   bronchograms on CXR.  Pulmonary embolus is also a consideration however
   no evidence of right heart strain on echocardiogram or PE on CTA.
   -wean FIO2 as tolerated
   -started vancomycin and zosyn for pneumonia vs. pneumonitis
   -CTA without PE, but awaiting final read
   .
   #Anoxic Brain Injury - head ct on admission with evidence of global
   anoxic injury likely [**3-17**] prolonged PEA arrest of unknown duration.
   -cooling protocol
   -low dose fentanyl/versed advised by cardiac arrest consult in case he
   is in a locked in state (can likely stop when warmed)
   - neurology consult in the am
   -48 hour EEG (showing flat line as per neuro)
   .
   #Lactic acidosis - [**3-17**] PEA arrest and prolonged hypoperfusion, lactate
   trending down now that HD stable.
   -monitor serial lactates, trending down, currently 2.2
   .
   #Transaminitis - likely [**3-17**] ischemic insult
   -monitor trend
   .
   # Hypotesion/Autonomic Instability - long h/o labile BP and severe
   orthostasis.  He is on numerous doses of midodrine at baseline as well
   as salt tabs.  Per his family it is not unusual for him to have blood
   pressure in the 80's - 90's systolic then up to the 160's in the
   evening.  Anoxic injury likely contributing to labile BP
   -continue midodrine four times daily
   -on dopamine currently to maintain MAP >60
   -monitor urine output
   .
   #Urinary retention - chronic indwelling foley catheter, await urine cx.
   .
   FEN: NPO for now, NGT in place, change to OGT if prolonged intubation,
   replete lytes prn, consider starting tube feeds in the AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-9-21**] 10:00 AM
   Arterial Line - [**2177-9-21**] 01:02 PM
   20 Gauge - [**2177-9-21**] 04:00 PM
   Prophylaxis:
   DVT:
   Bowel regimen: senna, docusate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code for now
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note.
   Reviewed overnight course.
   No neurological recovery Examined Pt and agree with Dr.[**Last Name (STitle) 9429**]
s note
   Spent 40 mins on case.
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2177-9-23**] 11:43 ------

2177-09-23 04:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient DNR/DNI.
   - The family would like another family meeting today to update them on
   any progress in order to make any further decisions about proceeding
   with de-escalation of care.
   - Neuro says to continue 72 hours of EEG monitoring, but have little
   hope for any functional recovery.
   - Blood pressure labile, especially after patient is moved in bed->
   fluctuated from 50s-60s systolic to 200s in matter of minutes.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2177-9-22**] 06:19 PM
   Vancomycin - [**2177-9-22**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-9-23**] 01:30 AM
   Infusions:
   Dopamine - 4.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-9-22**] 11:30 PM
   Famotidine (Pepcid) - [**2177-9-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-23**] 04:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 86 (64 - 106) bpm
   BP: 94/53(68) {49/37(41) - 205/113(152)} mmHg
   RR: 12 (0 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 76.5 kg
             Total In:
                                                                  1,693 mL
                                                                    316 mL
   PO:
             TF:
   IVF:
                                                                  1,533 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  4,680 mL
                                                                    900 mL
   Urine:
                                                                  4,680 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,987 mL
                                                                   -584 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/40/116//4
   Ve: 5.5 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Gen: intubated, unresponsive to any stimulus, no posturing noted
   HEENT: NC AT, intubated pupils are fixed and dilated at 6mm
   bilaterally, right pupil appears to be post surgical, left eye with
   large cataract visible
   Neck: right EJ 18G iv in place, no significant jvd
   CV: RRR s1 s2 no appreciable murmur
   Lungs: CTAB anteriorly, decreased BS posteriorly, unable to ausculate
   lung bases as artic sun cooling pads in place, no wheezing
   Abd: distended, soft, unable to assess for tenderness given mental
   status, positive bowel sounds
   Ext: cool, palpable DP's bilaterally
   Labs / Radiology
   134 K/uL
   12.1 g/dL
   96 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.7 mEq/L
   16 mg/dL
   116 mEq/L
   152 mEq/L
   37.2 %
   9.3 K/uL
        [image002.jpg]
   CXR  - L sided effusion, bilateral atelectasis with superimposed
   infiltrates from possible aspiration
   Micro blood cx NGTD, sputum with 3+ GPC and sparse GNR
                             [**2177-9-21**]  01:32 PM
                             [**2177-9-21**]  04:21 PM
                             [**2177-9-21**]  06:18 PM
                             [**2177-9-22**]  03:02 AM
                             [**2177-9-22**]  03:19 AM
                             [**2177-9-22**]  10:03 AM
                             [**2177-9-22**]  12:19 PM
                             [**2177-9-22**]  03:36 PM
                             [**2177-9-22**]  04:10 PM
   WBC
   8.1
   9.3
   Hct
   38.2
   37.2
   Plt
   148
   134
   Cr
   0.7
   0.7
   TropT
   0.29
   0.15
   TCO2
   24
   26
   28
   25
   25
   29
   Glucose
   132
   109
   103
   132
   Other labs: PT / PTT / INR:16.5/29.2/1.5, CK / CKMB /
   Troponin-T:1066/52/0.15, ALT / AST:176/289, Alk Phos / T Bili:86/0.3,
   Lactic Acid:2.2 mmol/L, Albumin:3.5 g/dL, Ca++:7.7 mg/dL, Mg++:2.2
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9957**] is an 80 yo M with PMH of parkinsonism, autonomic
   instability and labile blood pressures admitted to the CCU following
   PEA arrest and resuscitation, now on Arctic sun protocol with diffuse
   anoxic brain injury on CT scan.
   .
   # s/p PEA arrest, unlikely to be from primary cardiac etiology, at this
   time most like due to hypoxia from possible aspiration event given that
   main laboratory abnormality is hypoxia and also with new left sided
   infiltrate.  No evidence of pericardial effusion on echo, no evidence
   of pneumothorax.  No evidence of acute MI on admission.  He does have a
   lactic acidosis, likely [**3-17**] prolonged pea arrest in the field.  He has
   been in sinus tachycardia with occasional 2nd degree heart block type I
   on telemetry since admission.  He was bolused with amiodarone and
   lidocaine in the field and started on an amiodarone gtt by EMS.
   - diffuse anoxic brain injury with poor prognosis (flat EEG, CT head
   showing worsening cerebral edema, physical exam without brainstem
   reflexes)
   - completed Arctic sun cooling protocol, now re-warmed
   - now DNR/DNI, family meeting with neuro this AM regarding possible
   terminal extubation
   -off amiodarone gtt as PEA arrest seems very unlikely to be primary
   cardiac
   -monitor on telemetry
   .
   # CORONARIES: No evidence of acute ischemia on EKG, no evidence of wall
   motion abnormality on echo on admission.  Cardiac enzymes slightly
   elevated however expected in the setting of several DCCV.
   -CE
s trending downward
   -serial EKG's
   .
   # PUMP: Echocardiogram on admission with hyperdynamic LV in the setting
   of resuscitation with numerous epinephrine boluses.  No evidence of
   wall motion abnormality or major valvular lesions.
   .
   #Hypoxia - Most likely etiology of PEA arrest, still with significant
   AA gradient, but PaO2 improving with FIO2 of 60.  Unclear etiology at
   this time, possibly [**3-17**] aspiration event given LLL opacity and air
   bronchograms on CXR.  Pulmonary embolus is also a consideration however
   no evidence of right heart strain on echocardiogram or PE on CTA.
   -wean FIO2 as tolerated
   -started vancomycin and zosyn for pneumonia vs. pneumonitis
   -CTA without PE, but awaiting final read
   .
   #Anoxic Brain Injury - head ct on admission with evidence of global
   anoxic injury likely [**3-17**] prolonged PEA arrest of unknown duration.
   -cooling protocol completed, now rewarmed
   -off fentanyl/versed with no brainstem reflexes and poor prognosis, as
   per neuro
   - appreciate neurology care/input
   - 48 hour EEG (showing flat line as per neuro)
   - No corneal reflex this AM.  Low likelihood of regaining cortical
   function.
   .
   #Lactic acidosis - [**3-17**] PEA arrest and prolonged hypoperfusion, lactate
   trending down now that HD stable.
   -monitor serial lactates, trending down and now normal
   .
   #Transaminitis - likely [**3-17**] ischemic insult
   - trending downward
   .
   # Hypotesion/Autonomic Instability - long h/o labile BP and severe
   orthostasis.  He is on numerous doses of midodrine at baseline as well
   as salt tabs.  Per his family it is not unusual for him to have blood
   pressure in the 80's - 90's systolic then up to the 160's in the
   evening.  Anoxic injury likely contributing to labile BP
   -continue midodrine four times daily
   -on dopamine currently to maintain MAP >60
   -monitor urine output
   .
   #Urinary retention - chronic indwelling foley catheter, await urine cx.
   .
   # FEN: NPO for now, NGT in place, replete lytes prn
   .
   # Dispo: DNR/DNI, wife has living will and is HCP, discussing goals of
   care and possible terminal extubation, as pt would not want to live
   like this, per family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-9-21**] 10:00 AM
   Arterial Line - [**2177-9-21**] 01:02 PM
   20 Gauge - [**2177-9-21**] 04:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP: mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: discussing goals of care, transitioning to possible CMO
   and possible terminal extubation, as pt would not want to live like
   this
   ------ Protected Section ------
   Attending
s Note.
   Reviewed overnight course.,
   [**Name (NI) 9974**] Pt.No neurologic signs of life
   Agree with Dr.[**Last Name (STitle) 9888**]
s note.
   Need family discussion on continued support therapy.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2177-9-23**] 11:45 ------

2177-09-24 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pt remains intubated, on vent, since family awaiting other members to
   arrive before making final decision re: transition to CMO.
   - neuro evaluated patient and assessment is brain death based on EEG,
   physical exam.
   - apnea test has not been performed, as family seems to be trending
   toward terminal extubation and declining at this time
   - [**Location (un) **] organ bank called to notify about patients status; they
   closed the case as pt has not had formal apnea testing done.  Stating
   that pt needs to have all formal testing completed prior to their
   speaking with pt re: organ donation.
   - spoke with [**Location (un) **] organ bank again this AM; they will come and
   speak with family this time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2177-9-22**] 06:19 PM
   Vancomycin - [**2177-9-23**] 09:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-9-24**] 01:40 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-9-23**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.6
   HR: 97 (69 - 115) bpm
   BP: 107/75(87) {78/47(58) - 203/120(151)} mmHg
   RR: 12 (8 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 76.5 kg
             Total In:
                                                                  2,188 mL
                                                                    245 mL
   PO:
             TF:
   IVF:
                                                                  1,948 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  6,240 mL
                                                                  3,000 mL
   Urine:
                                                                  6,240 mL
                                                                  3,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,052 mL
                                                                 -2,755 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 5.8 L/min
   Physical Examination
   Gen: intubated, unresponsive to any stimulus, no posturing noted
   HEENT: NC AT, intubated pupils are fixed and dilated at 6mm
   bilaterally, right pupil appears to be post surgical, left eye with
   large cataract visible
   Neck: right EJ 18G iv in place, no significant jvd
   CV: RRR s1 s2 no appreciable murmur
   Lungs: CTAB anteriorly, decreased BS posteriorly, unable to ausculate
   lung bases as artic sun cooling pads in place, no wheezing
   Abd: distended, soft, unable to assess for tenderness given mental
   status, positive bowel sounds
   Ext: cool, palpable DP's bilaterally
   Labs / Radiology
   128 K/uL
   12.3 g/dL
   96 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.7 mEq/L
   16 mg/dL
   116 mEq/L
   152 mEq/L
   37.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2177-9-21**]  04:21 PM
                             [**2177-9-21**]  06:18 PM
                             [**2177-9-22**]  03:02 AM
                             [**2177-9-22**]  03:19 AM
                             [**2177-9-22**]  10:03 AM
                             [**2177-9-22**]  12:19 PM
                             [**2177-9-22**]  03:36 PM
                             [**2177-9-22**]  04:10 PM
                             [**2177-9-23**]  05:30 AM
                             [**2177-9-23**]  05:44 AM
   WBC
   8.1
   9.3
   9.4
   Hct
   38.2
   37.2
   37.9
   Plt
   148
   134
   128
   Cr
   0.7
   0.7
   0.8
   TropT
   0.29
   0.15
   0.10
   TCO2
   26
   28
   25
   25
   29
   32
   Glucose
   132
   109
   103
   132
   96
   Other labs: PT / PTT / INR:17.3/38.9/1.5, CK / CKMB /
   Troponin-T:808/21/0.10, ALT / AST:145/139, Alk Phos / T Bili:86/0.3,
   Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, Ca++:8.3 mg/dL, Mg++:2.3
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 IMPAIRED SKIN INTEGRITY
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 VENTRICULAR FIBRILLATION (VF)
   Mr. [**Known lastname 9957**] is an 80 y/o male with parkinsonism,
   autonomic instability, who was admitted to CCU following PEA arrest,
   likely secondary to aspiration, now s/p Arctic sun protocol, re-warmed
   and off sedation, with anoxic brain injury and worsening cerebral
   edema on CT scan, flat lining EEG, no brainstem reflexes, and no
   spontaneous breathing.
   .
   # s/p PEA arrest, unlikely to be from primary cardiac etiology, at this
   time most like due to hypoxia from possible aspiration event given that
   main laboratory abnormality is hypoxia and also with new left sided
   infiltrate.  No evidence of pericardial effusion on echo, no evidence
   of pneumothorax.  No evidence of acute MI on admission.  He does have a
   lactic acidosis, likely [**3-17**] prolonged pea arrest in the field.  He has
   been in sinus tachycardia with occasional 2nd degree heart block type I
   on telemetry since admission.  He was bolused with amiodarone and
   lidocaine in the field and started on an amiodarone gtt by EMS.
   - diffuse anoxic brain injury with poor prognosis (flat EEG, CT head
   showing worsening cerebral edema, physical exam without brainstem
   reflexes)
   - completed Arctic sun cooling protocol, now re-warmed
   - now DNR/DNI, family waiting for other members before making final
   decision re: CMO/terminal extubation
   - off amiodarone gtt as PEA arrest seems very unlikely to be primary
   cardiac
   - monitor on telemetry
   - [**Location (un) **] Organ bank notified of patient; they closed the case
   stating that the patient needs to have all formal testing completed
   prior to their speaking with patient.  Unclear if this is actually the
   case, after reviewing our brain death policy.
   - will need to speak with family re: CMO status, apnea testing (which
   they have deferred up to this point), and terminal extubation, since
   the family states that the patient would not want to live like this.
   - can be formally declared brain dead, if does not pass apnea test
   .
   # CORONARIES: No evidence of acute ischemia on EKG, no evidence of wall
   motion abnormality on echo on admission.  Cardiac enzymes slightly
   elevated however expected in the setting of several DCCV.
   -CE
s trending downward
   -serial EKG's
   .
   # PUMP: Echocardiogram on admission with hyperdynamic LV in the setting
   of resuscitation with numerous epinephrine boluses.  No evidence of
   wall motion abnormality or major valvular lesions.
   .
   #Hypoxia - Most likely etiology of PEA arrest, still with significant
   AA gradient, but PaO2 improving with FIO2 of 60.  Unclear etiology at
   this time, possibly [**3-17**] aspiration event given LLL opacity and air
   bronchograms on CXR.  Pulmonary embolus is also a consideration however
   no evidence of right heart strain on echocardiogram or PE on CTA.
   -wean FIO2 as tolerated
   -started vancomycin and zosyn for pneumonia vs. pneumonitis but will
   d/c as we are moving to CMO
   -CTA without PE, but awaiting final read
   .
   #Anoxic Brain Injury - head ct on admission with evidence of global
   anoxic injury likely [**3-17**] prolonged PEA arrest of unknown duration.
   -cooling protocol completed, now re-warmed, with unchanged exam
   -off fentanyl/versed with no brainstem reflexes and poor prognosis, as
   per neuro
   - appreciate neurology care/input
   - 72 hour EEG completed (showing flat line as per neuro)
   - No corneal reflex this AM.  Low likelihood of regaining cortical
   function.
   .
   #Lactic acidosis - [**3-17**] PEA arrest and prolonged hypoperfusion, lactate
   trending down now that HD stable.
   -monitor serial lactates, trending down and now normal
   .
   #Transaminitis - likely [**3-17**] ischemic insult
   - trending downward
   .
   # Hypotesion/Autonomic Instability - long h/o labile BP and severe
   orthostasis.  He is on numerous doses of midodrine at baseline as well
   as salt tabs.  Per his family it is not unusual for him to have blood
   pressure in the 80's - 90's systolic then up to the 160's in the
   evening.  Anoxic injury likely contributing to labile BP
   -continue midodrine four times daily
   -on dopamine currently to maintain MAP >60
   -monitor urine output
   .
   #Urinary retention - chronic indwelling foley catheter, await urine cx.
   .
   # FEN: NPO for now, NGT in place, replete lytes prn
   .
   # Dispo: DNR/DNI, wife has living will and is HCP, discussing goals of
   care and possible terminal extubation, as pt would not want to live
   like this, per family.  Will d/c Abx and those medications not
   supporting BP.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-9-21**] 01:02 PM
   20 Gauge - [**2177-9-21**] 04:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: DNR/DNI, wife has living will and is HCP, discussing goals
   of care and possible terminal extubation, as pt would not want to live
   like this, per family.  [**Location (un) **] organ bank coming to speak with
   family today.
   ------ Protected Section ------
   Attending
s Note
   Reviewed overnight course.
   No change.examined Pt
   Agree with Dr.[**Last Name (STitle) 9429**]
s note
   Spent 40 mins on case
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2177-9-24**] 11:47 ------